US04275209
1-(Cis-4-hydroxycyclohexylmethyl)-4-(2-chloro-9-thioxanthenylidene)-piperidine (Method (a))
A mixture of 6 grams of 4-(2-chloro-9-thioxanthenylidene)piperidine, 4 grams of cis-(1-mesyloxymethyl-4-hydroxy)cyclohexane, 1.5 grams of finely crushed potassium carbonate and 25 milliliters of methylisobutylketone was heated under reflux for 5 hours while stirring. After cooling were added 200 milliliters of ether, and the organic phase was extracted with 5% aqueous methane sulphonic acid. The aqueous phase was made alkaline with aqueous ammonia, and the base which precipitated was extracted with ether. The etherphase was dried over anhydrous potassium carbonate, treated with active carbon and evaporated. The residue was crystallized from cyclohexane. Yield: 1.5 grams of 1-(cis-4-hydroxycyclohexylmethyl)-4-(2-chloro-9-thioxanthenylidene)piperidine, which melted at 100-103 degrees Centigrade.

reactant | 4-(2-chloro-9-thioxanthenylidene)piperidine | 6 grams | ClC1=CC=2C(C3=CC=CC=C3SC2C=C1)=C1CCNCC1 | C18H16ClNS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methylisobutylketone | 25 milliliters | CC(=O)CC(C)C | C6H12O
reactant | ether | 200 milliliters | CCOCC | C4H10O
product | 1-(Cis-4-hydroxycyclohexylmethyl)-4-(2-chloro-9-thioxanthenylidene)-piperidine | O[C@H]1CC[C@H](CC1)CN1CCC(CC1)=C1C2=CC=CC=C2SC=2C=CC(=CC12)Cl | C25H28ClNOS
